US06727264B1
2-METHYL-N-{3-[1-(2-QUINOLINYLMETHYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE:
Prepared by Procedure F and Scheme R using 2-quinolinecarbaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 388.1 (M+H)+.

reactant | 2-quinolinecarbaldehyde | N1=C(C=CC2=CC=CC=C12)C=O | C10H7NO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-{3-[1-(2-QUINOLINYLMETHYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC1=NC2=CC=CC=C2C=C1)C | C25H29N3O
